US07057051B2
N-(Cyclopentyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide
Using essentially the same procedure as Example 36, Step B (Method B), but using neat cyclopentylamine (1.5 mL), ethyl 4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxylate (30 mg, 0.073 mmol) was converted to the title compound after purification by Prep TLC (25% ethyl acetate in hexanes).

reactant | cyclopentylamine | 1.5 mL | C1(CCCC1)N | C5H11N
reactant | ethyl 4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxylate | 0.073 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1C1=CC=C(C=C1)Cl)C)C(=O)OCC | C19H15Cl3N2O2
product | N-(Cyclopentyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide | C1(CCCC1)NC(=O)C=1N(C(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C22H20Cl3N3O
